US09120749B2
Cyclopropyl[4-{4-[(dimethylamino)methyl]piperidin-1-yl}-6-(4-hydroxy-3-methoxyphenyl)quinolin-3-yl]methanone
Following general procedure D, (6-bromo-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl)(cyclopropyl)methanone (47 mg, 0.113 mmol) was reacted with 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (55 mg, 0.220 mmol) to afford the desired product (23.5 mg, 45%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 8.81 (s, 1H), 8.29 (d, J=1.6 Hz, 1H), 8.10-8.00 (m, 2H), 7.30 (d, J=2.0 Hz, 1H), 7.22 (dd, J=8.2, 2.1 Hz, 1H), 6.94 (d, J=8.2 Hz, 1H), 3.97 (s, 3H), 3.56 (d, J=12.6 Hz, 2H), 3.27-3.15 (m, 4H), 2.95 (s, 6H), 2.65-2.55 (m, 1H), 2.15-2.25 (m, 1H), 1.95 (d, J=12.6 Hz, 2H), 1.78-1.67 (m, 2H), 1.38-1.28 (m, 2H), 1.28-1.19 (m, 2H); ESI MS m/z 460 [C28H33N3O3+H]+; HPLC 95.9% (AUC), tR=9.74 min.

reactant | (6-bromo-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl)(cyclopropyl)methanone | 0.113 mmol, 47 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)CN(C)C | C21H26BrN3O
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.220 mmol, 55 mg | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
product | Cyclopropyl[4-{4-[(dimethylamino)methyl]piperidin-1-yl}-6-(4-hydroxy-3-methoxyphenyl)quinolin-3-yl]methanone | 23.5 mg, 45% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N1CCC(CC1)CN(C)C)C1=CC(=C(C=C1)O)OC | C28H33N3O3
